US07101595B2
A solution comprising 14 g of allyl (4-chlorobutyl ether, 14 g of 4-hydroxybenzoic acid, 14 g of potassium carbonate and 50 ml of dimethylformamide was stirred at 90° C. for 3 hours. Water was added thereto, and the liquid was extracted with toluene. The toluene layer was washed well with water, and toluene was distilled off. Sodium hydroxide 20 g, water 50 ml and ethanol 200 ml were added to the resulting residue, and the solution was refluxed for 2 hours. Ethanol was distilled off, and hydrochloric acid was added to acidify the solution. It was extracted with diethyl ether and dried on anhydrous magnesium sulfate. The solvent was distilled off, and a residue thus obtained was recrystallized from a mixed solvent of ethanol and water to obtain 29 g of 4-(4-allyloxybutyloxy)benzoic acid. Phase transition temperature: C 94 N 107 I

reactant | 4-chlorobutyl ether | ClCCCCOCCCCCl | C8H16Cl2O
reactant | 4-hydroxybenzoic acid | 14 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-(4-allyloxybutyloxy)benzoic acid | 29 g | C(C=C)OCCCCOC1=CC=C(C(=O)O)C=C1 | C14H18O4
